### PR TITLE
[Merged by Bors] - chore: replace `Quotient.exists_rep` with `induction`

### PR DESCRIPTION
**Pull request by eric-wieser**
Following my advice [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/getting.20witness.20for.20points.20in.20the.20quotient/near/435785862); let's change more code to use `induction` so that users learning by example learn a better approach.

This is not exhaustive.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Perm/Sign.lean [hunk 1]
```diff
@@ -340,7 +340,7 @@ theorem signAux3_mul_and_swap [Finite α] (f g : Perm α) (s : Multiset α) (hs
     signAux3 (f * g) hs = signAux3 f hs * signAux3 g hs ∧
       Pairwise fun x y => signAux3 (swap x y) hs = -1 := by
   obtain ⟨n, ⟨e⟩⟩ := Finite.exists_equiv_fin α
-  obtain ⟨l, rfl⟩ := Quotient.exists_rep s
+  induction s using Quotient.inductionOn with | _ l => ?_
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Perm/Sign.lean:343]: Perhaps this is controversial, because the new spelling is longer and has more `_`s?

**Review by Ruben-VandeVelde — APPROVED** [review]
Lgtm

maintainer merge

**Comment by mattrobball** [comment]
bors merge
